US05037822
1-[4-(1-piperidyl)benzenesulphonyl]-2-pyrrolidinethione
A mixture comprising 5 g of 1-[4-(1-piperidyl)benzenesulphonyl]-2-pyrrolidinone, prepared as in Example 10 of the European Patent published under No. 0,033,578, and 3.28 g of Lawesson reagent (or 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulphide) in 100 cm3 of dimethoxyethane is heated to reflux for 1 hour. The mixture is allowed to return to room temperature and is evaporated to dryness, and the residue is chromatographed on silica (eluant: ethyl acetate/n-hexane, 1:1). 3.5 g of product are recovered. M.p. 195°-200° C. After crystallization in ethanol, 1.5 g of expected product are obtained. M.p. 211°-212° C.

reactant | 1-[4-(1-piperidyl)benzenesulphonyl]-2-pyrrolidinone | 5 g | N1(CCCCC1)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=O | C15H20N2O3S
reactant | Lawesson reagent | 3.28 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulphide | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | dimethoxyethane | 100 cm3 | C(OC)COC | C4H10O2
product | 1-[4-(1-piperidyl)benzenesulphonyl]-2-pyrrolidinethione | 1.5 g | N1(CCCCC1)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=S | C15H20N2O2S2
